US07056932B2
A solution under N2 of (RS)-2-ethoxy-malonic acid monoethyl ester (666 mg, 1.0) in THF (37 ml) was prepared. BOP (2.17 g), 4-aminomethyl-benzonitrile hydrochloride (555 mg) and N-ethyldiisopropylamine (733 mg) were added at 0° C. The ice bath was removed and the reaction was let to stir 24 h. THF was evaporated and the mixture was diluted with EtOAc. This organic phase was washed with a sat. aq. NaHCO3 sol. and with brine. The aqueous phases were extracted with one more portion of EtOAc and dried over MgSO4. The solvent was evaporated. The crude product was purified by flash chromatography. (heptane/EtOAc 3:1 to 2:1). 750 mg (68%) of (RS)-N-(4-cyano-benzyl)-2-ethoxy-malonamic acid ethyl ester were isolated as a yellow oil. MS 308.4 (100, [M+NH4]+), 291.1 (88, [M+H]+).

reactant | (RS)-2-ethoxy-malonic acid monoethyl ester | 666 mg | C(C)OC(C(C(=O)O)OCC)=O | C7H12O5
reactant | BOP | 2.17 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-aminomethyl-benzonitrile hydrochloride | 555 mg | Cl.NCC1=CC=C(C#N)C=C1
reactant | N-ethyldiisopropylamine | 733 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 37 ml | C1CCOC1 | C4H8O
product | (RS)-N-(4-cyano-benzyl)-2-ethoxy-malonamic acid ethyl ester | 750 mg, 68% | C(C)OC(C(C(=O)NCC1=CC=C(C=C1)C#N)OCC)=O | C15H18N2O4
